US07276518B2
Dimethyl-(8-naphthalen-2-yl-1,4-dioxa-spiro[4.5]dec-8-yl)-amine hydrochloride (6.09 g) was dissolved in 7.5N hydrochloric acid, stirred for 32 hours at RT and then extracted with diethyl ether (3×30 ml). The aqueous phase was rendered alkaline with 25% ammonia solution, while cooling with ice, and extracted with 1,2-dichloroethane (3×30 ml). The combined extracts were dried with Na2SO4 and concentrated. 4.48 g of 4-dimethylamino-4-naphthalen-2-yl-cyclohexanone were obtained as a white solid (m.p. 81-83° C.).

reactant | Dimethyl-(8-naphthalen-2-yl-1,4-dioxa-spiro[4.5]dec-8-yl)-amine hydrochloride | 6.09 g | Cl.CN(C1(CCC2(OCCO2)CC1)C1=CC2=CC=CC=C2C=C1)C
solvent | hydrochloric acid | 7.5N | Cl | ClH
product | 4-dimethylamino-4-naphthalen-2-yl-cyclohexanone | 4.48 g | CN(C1(CCC(CC1)=O)C1=CC2=CC=CC=C2C=C1)C | C18H21NO
